US07273952B2
The corresponding Grignard reagent was produced in 11 ml THF p.a. from 0.28 g magnesium and 2.72 g 2-bromo-6-methoxynaphthalene, a solution of 2.00 g 4-benzyloxy-2-dimethylaminomethylcyclohexanone in 8 ml THF p.a. added dropwise with ice cooling, and the mixture stirred for 1 hour. For working up, 4 ml 4 M ammonium chloride solution were added to the ice bath, the organic phase separated off, the aqueous phase extracted twice with diethyl ether, the combined organic phases dried by sodium sulphate, filtered and concentrated. The crude product obtained (3.20 g) was chromatographed with ethyl acetate/methanol/hexane (V/V/V=1:1:1) on silica gel. 1.52 g 4-benzyloxy-2-dimethylaminomethyl-1-(6-methoxynaphthalen-2-yl)cyclohexanol were obtained and converted into the corresponding hydrochloride (1.32 g) in the same way as in AAV 1.

reactant | magnesium | 0.28 g | [Mg] | Mg
reactant | 2-bromo-6-methoxynaphthalene | 2.72 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | 4-benzyloxy-2-dimethylaminomethylcyclohexanone | 2.00 g | C(C1=CC=CC=C1)OC1CC(C(CC1)=O)CN(C)C | C16H23NO2
reactant | ammonium chloride | 4 M, 4 ml | [Cl-].[NH4+]
solvent | THF | 11 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 4-benzyloxy-2-dimethylaminomethyl-1-(6-methoxynaphthalen-2-yl)cyclohexanol | 1.52 g | C(C1=CC=CC=C1)OC1CC(C(CC1)(O)C1=CC2=CC=C(C=C2C=C1)OC)CN(C)C | C27H33NO3
